US07732463B2
4-(5-Fluoro-2-mercapto-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (Intermediate for 2a1-2a6)
To a solution of 2-bromo-4-fluoro-thiophenol (6.0 g, 28.9 mmol) in dry tetrahydrofuran (TBF, 25 mL) at −78° C. was slowly added methyl lithium (1M in cumene/TBF, 28.9 mL, 28.9 mmol). After 30 min at −78° C., tert-butyl lithium (1.7 M in THF, 39.9 mL, 63.8 mmol) was added and the reaction mixture was stirred 30 min at −78° C. A solution of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (5.77 g, 28.9 mmol) in THE (20 mL) was added and the reaction mixture was allowed to warm to rt and stirred overnight. Water (50 mL) and ethyl acetate (25 mL) were added, and organic phase was discarded. The aqueous phase was extracted with ethyl acetate (50 mL) and saturated aqueous ammonium chloride (25 mL). The organic phase was washed with saturated aqueous ammonium chloride (25 mL) and dried over magnesium sulfate, and evaporated to afford the crude product. The crude product was purified by flash chromatography on silica gel (eluent: An increasing amount (0-20%) of ethyl acetate in heptane). Yield: 4.67 g (49%).

reactant | 2-bromo-4-fluoro-thiophenol | 28.9 mmol, 6.0 g | BrC1=C(C=CC(=C1)F)S | C6H4BrFS
reactant | methyl lithium | 28.9 mmol, 1M, 28.9 mL | C[Li]
reactant | tert-butyl lithium | 63.8 mmol, 1.7 M, 39.9 mL | C(C)(C)(C)[Li]
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 28.9 mmol, 5.77 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 50 mL | O | H2O
product | 4-(5-Fluoro-2-mercapto-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC(=C1)F)S | C16H22FNO3S
